US06977262B2
To a solution of 2-chloro-3-methylbenzaldehyde (19.4 g) in ethanol (45 ml) was added an aqueous hydroxylamine hydrochloride (9.7 g) solution (12 ml), and an aqueous sodium hydroxide (6.9 g) solution (10 ml) was added. The mixture was stirred at room temperature for 1.5 hours. Water (500 ml) was added and the precipitated crystals were collected by filtration. The obtained white crystals (16.1 g) were dissolved in acetic anhydride (50 ml) and the mixture was heated under reflux for 2.5 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (5:1)) to give 2-cyano-6-methylchlorobenzene (10.9 g) as a white solid. A suspension of 2-cyano-6-methylchlorobenzene (10.9 g), N-bromosuccinimide (12.8 g) and benzoyl peroxide (523 mg) in carbon tetrachloride (100 ml) was heated under reflux for 3.5 hours. The insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (20:1)) to give 2-chloro-3-cyanobenzaldehyde (12.8 g) as a colorless oil. Subsequently, the title compound was prepared from 2-chloro-3-cyanobenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-cyano-6-methylchlorobenzene | 10.9 g | C(#N)C1=C(C(=CC=C1)C)Cl | C8H6ClN
reactant | N-bromosuccinimide | 12.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 523 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-chloro-3-cyanobenzaldehyde | 12.8 g | ClC1=C(C=O)C=CC=C1C#N | C8H4ClNO
